US07723367B2
(2-phenoxypyridin-3-yl)methylamine
2-phenoxynicotinonitrile and Raney/nickel were processed according to the Example 78B to afford the title compound. MS (ESI+) m/z 201 (M+H)+

reactant | 2-phenoxynicotinonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=CC=N1 | C12H8N2O
catalyst | nickel | [Ni] | Ni
product | (2-phenoxypyridin-3-yl)methylamine | O(C1=CC=CC=C1)C1=NC=CC=C1CN | C12H12N2O
